US04652556
Preparation of 1-Acetylthio-2-methylsulfonylethane
To a stirred solution of 53.2 g (0.5 mole) methylvinylsulfone and 1 ml triethylamine in 50 ml methanol, 38.06 g [35.75 ml (0.5 mole)] thioacetic acid was added dropwise over 15 minutes. During the addition, the temperature was maintained between 30°-40° C. with an ice bath. The mixture was stirred overnight at room temperature; then the solvent was removed using a rotovap to give a yellow-red oil which solidified upon cooling. The residue was dissolved in 150 ml of hot ethyl acetate; then 100 ml hexane was added. With cooling of the solution in an ice bath, fine white needle crystals formed. The crystals were recovered by filtration, were washed with cold 1:1 ethyl acetate:hexane and air-dried to give 35.28 g of the above-identified product as a crystalline solid, melting point 57°-59° C. A second crop of 29.13 g crystals melting point 57°-60° C. was obtained to give a total of 64.41 g of the above-identified product.

reactant | methylvinylsulfone | 0.5 mole, 53.2 g | CS(=O)(=O)C=C | C3H6O2S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | thioacetic acid | 0.5 mole, 35.75 ml, 38.06 g | C(C)(=S)O | C2H4OS
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-Acetylthio-2-methylsulfonylethane | 35.28 g | C(C)(=O)SCCS(=O)(=O)C | C5H10O3S2
